US07592334B2
d) 4-Bromo-6-methoxy-[1,5]naphthyridine-3-carboxylic acid
2 N NaOH (300 mL, 600 mmole) was added dropwise over 30 min to a stirred solution of 4-bromo-6-methoxy-[1,5]naphthyridine-3-carboxylic acid ethyl ester (83.56 g, 268 mmole) in THF (835 mL). Stirring was continued overnight, at which time LC/MS showed that the saponification was complete. 2 N HCl was added to pH 6 and the THF was removed in vacuo. 2 N HCl was added to pH 2, then water (250 mL) was added, and the mixture was cooled thoroughly in ice. The solid was collected by suction filtration, washed with water and dried (first using a rotary evaporator at 50° C. and then under high vacuum at 50° C. overnight) to give the title compound (76.7 g, slightly over quantitative). This material was used without further purification.

reactant | NaOH | 600 mmole, 2 N, 300 mL | [OH-].[Na+]
reactant | 4-bromo-6-methoxy-[1,5]naphthyridine-3-carboxylic acid ethyl ester | 268 mmole, 83.56 g | C(C)OC(=O)C=1C=NC2=CC=C(N=C2C1Br)OC | C12H11BrN2O3
reactant | HCl | 2 N | Cl | ClH
solvent | THF | 835 mL | C1CCOC1 | C4H8O
product | 4-Bromo-6-methoxy-[1,5]naphthyridine-3-carboxylic acid | BrC1=C(C=NC2=CC=C(N=C12)OC)C(=O)O | C10H7BrN2O3
